US07872014B2
To NaH (60 wt. % dispersion in oil; 0.42 g, 10.5 mmol) suspended in THF (20 mL) was added 1,1-dimethylethyl 4-({[4-(cyanomethyl)-2-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate (1.73 g, 4.81 mmol) and then anhydrous ethyl acetate (0.559 mL, 5.73 mmol). The mixture was stirred at 60° C. for 15 h. The mixture was cooled to room temperature, was acidified with 4 N HCl in dioxane (2 mL, 8 mmol) and was concentrated in vacuo. The residue was partitioned between 1 N hydrochloric acid and ethyl acetate. The organic portion was washed with water, brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a red oil which was dissolved in ethanol (20 mL) and treated with hydrazine (0.185 mL, 5.84 mmol) at reflux for 1 h. The mixture was concentrated in vacuo and dried in vacuo to afford 1,1-dimethylethyl 4-({[4-(5-amino-3-methyl-1H-pyrazol-4-yl)-2-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate as a red foam (2.00 g, 4.81 mmol, 100% yield). MS (EI) for C22H32N4O4: 417 (MH+), 439 (MNa+).

reactant | NaH | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | 1,1-dimethylethyl 4-({[4-(cyanomethyl)-2-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate | 4.81 mmol, 1.73 g | C(#N)CC1=CC(=C(C=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C20H28N2O4
reactant | ethyl acetate | 5.73 mmol, 0.559 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
reactant | hydrazine | 5.84 mmol, 0.185 mL | NN | H4N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1,1-dimethylethyl 4-({[4-(5-amino-3-methyl-1H-pyrazol-4-yl)-2-(methyloxy)phenyl]oxy}methyl)piperidine-1-carboxylate | 4.81 mmol, 2.00 g, 100% yield | NC1=C(C(=NN1)C)C1=CC(=C(C=C1)OCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C22H32N4O4
